US08067445B2
Synthesis of (R)-2-{2′-[(Cyclopropanecarbonyl-ethyl-amino)-methyl]-5,4′-bis-trifluoromethyl-biphenyl-3-yl}-propionic acid (Compound 1-237)
To a solution of cyclopropanecarboxylic acid ethyl-{3′-[(R)-1-methyl-2-((4R,5S)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-yl)-2-oxo-ethyl]-4,5′-bis-trifluoromethyl-biphenyl-2-ylmethyl}-amide (0.036 g, 0.06 mmol) in THE (1 mL) and H2O (1 mL) was added lithium hydroxide (0.005 g, 0.11 mmol) and hydrogen peroxide (29%; 0.01 mL, 0.11 mmol), and the reaction was stirred at room temperature overnight. The mixture was acidified to pH 5 with 10% aqueous HCl and extracted with EtOAc. The crude material was purified by preparative HPLC to give the title compound. M+H is 488.

reactant | cyclopropanecarboxylic acid ethyl-{3′-[(R)-1-methyl-2-((4R,5S)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-yl)-2-oxo-ethyl]-4,5′-bis-trifluoromethyl-biphenyl-2-ylmethyl}-amide | 0.06 mmol, 0.036 g | C(C)N(C(=O)C1CC1)CC1=C(C=CC(=C1)C(F)(F)F)C1=CC(=CC(=C1)C(F)(F)F)[C@H](C(=O)N1C(O[C@H]([C@H]1C)C1=CC=CC=C1)=O)C | C34H32F6N2O4
reactant | lithium hydroxide | 0.11 mmol, 0.005 g | [OH-].[Li+]
reactant | hydrogen peroxide | 0.11 mmol, 0.01 mL | OO | H2O2
reactant | HCl | Cl | ClH
solvent | H2O | 1 mL | O | H2O
product | (R)-2-{2′-[(Cyclopropanecarbonyl-ethyl-amino)-methyl]-5,4′-bis-trifluoromethyl-biphenyl-3-yl}-propionic acid | C1(CC1)C(=O)N(CC)CC1=C(C=CC(=C1)C(F)(F)F)C1=CC(=CC(=C1)C(F)(F)F)[C@H](C(=O)O)C | C24H23F6NO3
